US05925765
Preparation of 2,3-Dichloro-5-(methoxymethyl)pyridine
Under argon and at room temperature, 4.14 g (23 mmol) of sodium methoxide (30 percent strength solution in methanol) was added dropwise within 5 minutes to a solution of 4.11 g (20.9 mmol) of 2,3-dichloro-5-(chloromethyl)-pyridine [prepared from 2,3-dichloro-5-(hydroxymethyl)-pyridine by reaction with thionyl chloride] in 40 ml of methanol. The reaction mixture was subsequently heated to 60° C. for 3 hours. After the reaction had ended, the solvent was distilled off and the residue was admixed with 100 ml of water and extracted with dichloromethane (3×75 ml). The organic phase was dried over magnesium sulfate and evaporated. The yield of the product was 4.06 g (90.4 percent) of a yellow oil, purity (GC) 90.8 percent.

reactant | sodium methoxide | 23 mmol, 4.14 g | C[O-].[Na+]
reactant | 2,3-dichloro-5-(chloromethyl)-pyridine | 20.9 mmol, 4.11 g | ClC1=NC=C(C=C1Cl)CCl | C6H4Cl3N
solvent | methanol | 40 ml | CO | CH4O
product | 2,3-Dichloro-5-(methoxymethyl)pyridine | ClC1=NC=C(C=C1Cl)COC | C7H7Cl2NO
